US08791267B2
Synthesis of (S)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidin-2-one (I-212).
Synthesis of ((S)-4-(tert-Butyl-dimethyl-silanyloxy)-1-(6-methoxy-3′-nitro-biphenyl-3-ylmethyl)-pyrrolidin-2-one (I-213). Into a 250 mL round-bottomed flask with a stir bar was added I-212 (2.57 g, 11.95 mmol), THF (150 mL), and the solution was cooled to 0° C. NaH (0.56 g, 14.12 mmol) was added and the suspension was stirred at room temperature for 30 minutes. To this, I-70 (3.50 g, 10.86 mmol) was added and the reaction was stirred for 20 hours at room temperature after which time 50 mL of water was added and the product was extracted with ethyl acetate. The organics were concentrated to yield 8.9 g of I-213, which was used as is in the next reaction.

reactant | (S)-4-(tert-Butyl-dimethyl-silanyloxy)-1-(6-methoxy-3′-nitro-biphenyl-3-ylmethyl)-pyrrolidin-2-one | C(C)(C)(C)[Si](O[C@H]1CC(N(C1)CC=1C=C(C(=CC1)OC)C1=CC(=CC=C1)[N+](=O)[O-])=O)(C)C | C24H32N2O5Si
reactant | THF | 150 mL | C1CCOC1 | C4H8O
reactant | NaH | 14.12 mmol, 0.56 g | [H-].[Na+]
solvent | water | 50 mL | O | H2O
product | (S)-4-(tert-Butyl-dimethyl-silanyloxy)-pyrrolidin-2-one | C(C)(C)(C)[Si](O[C@H]1CC(NC1)=O)(C)C | C10H21NO2Si
